US09126972B2
5.2: [4-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-acetonitrile
Same procedure as that described in example 1, stage 1.4, starting from 8.7 g (32.7 mmol) of 4-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde, 6.7 g (34.3 mmol) of TOSMIC and 7.3 g (65 mmol) of potassium tert-butylate in solution in anhydrous DME (54 ml). 6.6 g of compound is obtained in the form of a yellow oil as 70/30 mixture of regioisomers tau and Pi.

reactant | 4-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 32.7 mmol, 8.7 g | CC=1N=C(N(C1)COCC[Si](C)(C)C)C=O | C11H20N2O2Si
reactant | TOSMIC | 34.3 mmol, 6.7 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert-butylate | 65 mmol, 7.3 g | CC(C)(C)[O-].[K+]
solvent | DME | 54 ml | COCCOC | C4H10O2
product | [4-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-acetonitrile | 6.6 g, Yield=80% | CC=1N=C(N(C1)COCC[Si](C)(C)C)CC#N | C12H21N3OSi
